US07388061B2
(1) Synthesis of 3,3-dimethyl-2,4-pentandione
To 0.1 mol sodium hydride was added 100 ml anhydrous tetrahydrofuran, and slowly added dropwise 0.12 mol 3-methyl-2,4-pentandione at room temperature. Upon completion, the mixture was stirred for 0.5 hours, then 0.12 mol iodomethane was slowly added dropwise. After stirred at room temperature for 10 hours, 20 ml water was added to dissolve solid. The mixture was extracted with ethyl acetate. The solvent was removed. Distillation was carried out under reduced pressure, and cut fraction 82-84° C./1 kPa was collected. The yield was 98%.

reactant | sodium hydride | 0.1 mol | [H-].[Na+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | 3-methyl-2,4-pentandione | 0.12 mol | CC(C(C)=O)C(C)=O | C6H10O2
reactant | iodomethane | 0.12 mol | IC | CH3I
solvent | water | 20 ml | O | H2O
product | 3,3-dimethyl-2,4-pentandione | yield was 98% | CC(C(C)=O)(C(C)=O)C | C7H12O2
